US04256736
(2) H-Gln-Thr-Pro-OtBu
1.36 g H-Thr-Pro-OtBu is dissolved in 10 ml DMF, after which 1.93 g Z-Gln-ONp is added and the reaction mixture is stirred for about 20 hours at room temperature.

reactant | H-Thr-Pro-OtBu | 1.36 g | N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C13H24N2O4
reactant | Z-Gln-ONp | 1.93 g | C1=CC=C(C=C1)COC(=O)N[C@@H](CCC(=O)N)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C19H19N3O7
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | H-Gln-Thr-Pro-OtBu | N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C18H32N4O6
